US05912244
6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran (7.4 g) (see Preparation 4) was dissolved in absolute ethanol (150 ml), sodium tert-butoxide (8.5 g), 3,4-dimethoxybenzenethiol (5 g) and tetrakis(triphenylphosphine)palladium(O) (0.5 g) were added and the mixture was heated under reflux under a nitrogen atmosphere for 24 hours. A further portion of tetrakis(triphenylphosphine)palladium(O) (0.5 g) was then added and heating was continued for another 24 hours. The solvent was removed under reduced pressure and the residue was taken up in dichloromethane and washed with water. The organic layer was dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the crude product chromatographed on silica using 1:4 hexane: dichloromethane as the eluent to yield 6-(3,4-dimethoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (7.4 g) as a yellow oil.

reactant | 6-Bromo-2,2,3-trimethyl-2H-benzo[b]pyran | 7.4 g | BrC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C12H13BrO
reactant | sodium tert-butoxide | 8.5 g | CC(C)([O-])C.[Na+]
reactant | 3,4-dimethoxybenzenethiol | 5 g | COC=1C=C(C=CC1OC)S | C8H10O2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 6-(3,4-dimethoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 7.4 g | COC=1C=C(C=CC1OC)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C20H22O3S
